US08003662B2
Step C: Preparation of 2-(4-fluorophenyl)-3-oxo-2,3-dihydropyridazine -4-carboxylic acid:
A mixture of (E)-5-(2-(2-(4-fluorophenyl)hydrazono)ethylidene)-2,2-dimethyl-1,3-dioxane-4,6-dione (0.60 g, 2.05 mmol) and NaOMe (0.133 g, 2.46 mmol) in MeOH (10 mL) was heated under reflux for 15 hours. The salt was treated with cold 1 N HCl solution, extrated with CH2Cl2, dried over MgSO4, and concentrated to afford 0.42 g (87%) of the desired product. 1H NMR (400 MHz, CDCl3) δ 13.57 (br s, 1H), 8.29 (m, 2H), 7.63 (m, 2H), 7.24 (m, 2H); 19F NMR (376 MHz, CDCl3) δ −110.7. LRMS (ESI pos) m/e 235.1 (M+1).

reactant | (E)-5-(2-(2-(4-fluorophenyl)hydrazono)ethylidene)-2,2-dimethyl-1,3-dioxane-4,6-dione | 2.05 mmol, 0.60 g | FC1=CC=C(C=C1)N\N=C\C=C1C(OC(OC1=O)(C)C)=O | C14H13FN2O4
reactant | NaOMe | 2.46 mmol, 0.133 g | C[O-].[Na+]
reactant | HCl | 1 N | Cl | ClH
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | MeOH | 10 mL | CO | CH4O
product | 2-(4-fluorophenyl)-3-oxo-2,3-dihydropyridazine -4-carboxylic acid | 0.42 g, 87% | FC1=CC=C(C=C1)N1N=CC=C(C1=O)C(=O)O | C11H7FN2O3
